US07687491B2
(28c) 1-({5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid 1/2 oxalate
The title compound (0.13 g) was synthesized in a yield of 83% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 21 (21d) using methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate (0.14 g, 0.34 mmol) that was obtained in Example 28 (28b), a 1 N aqueous solution of sodium hydroxide (11.0 mL, 1.0 mmol), acetic acid (58 μL, 1.0 mmol), and oxalic acid (15 mg, 0.17 mmol).

reactant | methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | 0.34 mmol, 0.14 g | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)OC)C | C24H28N4O3
reactant | sodium hydroxide | 1.0 mmol, 11.0 mL | [OH-].[Na+]
reactant | acetic acid | 1.0 mmol, 58 μL | C(C)(=O)O | C2H4O2
reactant | oxalic acid | 0.17 mmol, 15 mg | C(C(=O)O)(=O)O | C2H2O4
product | 1-({5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid | 0.13 g, yield of 83% | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)O)C | C23H26N4O3
